US08604033B2
According to Scheme 2 Step 4: A solution of N-(5-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)-1,2,4-thiadiazol-3-yl)pyridin-2-amine (69 mmol, 25 mg) in TFA (686 μL) was microwaved for 5 minutes at 120° C. The reaction mixture was neutralized with a solution of NaOH (1 M) and was extracted with DCM. The organic phase was dried over MgSO4, was filtered and was concentrated. The resulting crude product was purified by flash chromatography over silica gel using DCM/EtOH/NH3 (100:0:0 to 90:9:1) as eluent to yield 5-(1H-pyrazol-4-yl)-N-(pyridin-2-yl)-1,2,4-thiadiazol-3-amine (13 mmol, 3.3 mg, 19%) as a yellow solid.

reactant | N-(5-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)-1,2,4-thiadiazol-3-yl)pyridin-2-amine | 69 mmol, 25 mg | COC1=CC=C(CN2N=CC(=C2)C2=NC(=NS2)NC2=NC=CC=C2)C=C1 | C18H16N6OS
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | TFA | 686 μL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(1H-pyrazol-4-yl)-N-(pyridin-2-yl)-1,2,4-thiadiazol-3-amine | 13 mmol, 3.3 mg, 19% | N1N=CC(=C1)C1=NC(=NS1)NC1=NC=CC=C1 | C10H8N6S
